US06537948B1
A mixture of 1.4 g of 5-acetoxy-2-(methoxycarbonyl)methoxypyridine, 0.47 g of potassium carbonate and 10 ml of methanol was stirred for 4.5 hours at room temperature. The solvent was distilled off under reduced pressure, and to the resulted residue was added water, then neutralized with hydrochloric acid. The mixture was extracted with ethyl acetate, and organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 1.0 g of 5-hydroxy-2-(methoxycarbonyl)methoxypyridine.

reactant | 5-acetoxy-2-(methoxycarbonyl)methoxypyridine | 1.4 g | C(C)(=O)OC=1C=CC(=NC1)OCC(=O)OC | C10H11NO5
reactant | potassium carbonate | 0.47 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
product | 5-hydroxy-2-(methoxycarbonyl)methoxypyridine | 1.0 g | OC=1C=CC(=NC1)OCC(=O)OC | C8H9NO4
